US08017602B2
A solution of 3-methylbutan-1-amine (1.33 mL) and 2,2-dimethoxyacetaldehyde (1.73 mL) in MeOH (10 mL) was added to palladium on carbon (0.366 g) in water (0.5 mL) at 25° C. The mixture of was hydrogenated under 5 bar at 25° C. for 3 h. The reaction mixture was filtered and concentrated in vacuo to afford N-(2,2-dimethoxyethyl)-3-methylbutan-1-amine (1.8 g) as a liquid. 1H NMR (300 MHz, CDCl3) δ 4.47 (t, J=5.5 Hz, 1H), 3.39 (s, 6H), 2.74 (d, J=5.6 Hz, 2H), 2.65-2.59 (m, 2H), 1.62 (septet, J=6.7 Hz, 1H), 1.44-1.33 (m, 2H), 0.90 (d, J=6.7 Hz, 6H)

reactant | 3-methylbutan-1-amine | 1.33 mL | CC(CCN)C | C5H13N
reactant | 2,2-dimethoxyacetaldehyde | 1.73 mL | COC(C=O)OC | C4H8O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.366 g | [Pd] | Pd
solvent | water | 0.5 mL | O | H2O
product | N-(2,2-dimethoxyethyl)-3-methylbutan-1-amine | 1.8 g | COC(CNCCC(C)C)OC | C9H21NO2
